US07790884B2
N-(4-chloro-2-fluorophenyl)-6,7-dimethoxy-2-[4-(methylamino)piperidin-1-yl]quinazoline-4-amine (445 mg), 1-(tert-butoxycarbonyl)-L-proline (323 mg), HOBt (135 mg) and EDCI hydrochloride (290 mg) were added in that order to DMF (10 mL), followed by stirring at room temperature for 24 hours. Ethyl acetate and a saturated sodium bicarbonate aqueous solution were added to the reaction solution, and the organic layer was separated. Next, the organic layer was washed with saturated brine, dried over magnesium sulfate and then filtered. The solvent was evaporated under a reduced pressure. By purifying the residue by silica gel flash column chromatography (chloroform-MeOH), N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide was obtained. This was dissolved in ethyl acetate (10 mL), and 4 M HCl/ethyl acetate solution (0.5 mL) was added thereto. By evaporating the solvent under a reduced pressure and recrystallizing the resulting residue from EtOH-diethyl ether, N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide dihydrochloride (481 mg) was obtained as pale yellow powder.

reactant | N-(4-chloro-2-fluorophenyl)-6,7-dimethoxy-2-[4-(methylamino)piperidin-1-yl]quinazoline-4-amine | 445 mg | ClC1=CC(=C(C=C1)NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)NC)F | C22H25ClFN5O2
reactant | 1-(tert-butoxycarbonyl)-L-proline | 323 mg | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | HOBt | 135 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI hydrochloride | 290 mg | CCN=C=NCCCN(C)C.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N-methyl-L-prolinamide | ClC1=CC(=C(C=C1)NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N(C([C@H]1NCCC1)=O)C)F | C27H32ClFN6O3
